US07765698B2
Under a nitrogen atmosphere, a mixture of 1-tetradecanol (96.3 grams, 449 millimoles (mmol), pyridine (40 milliliters), and dichloromethane (1000 milliliters) was heated to 30° C. 4-Nitrobenzoyl chloride (100 grams, 539 mmol) was added in portions over a twenty minute period. The reaction mixture was heated to reflux for sixteen hours. The reaction mixture was then washed twice with water (2×500 milliliters). The organic layer was concentrated under reduced pressure to a yellow solid. One thousand (1000) milliliters of hexane was added, and the mixture was heated to reflux. The mixture was cooled and concentrated to yield a yellow solid that was filtered. The yellow solid was recrystallized twice from ethanol to obtain 77.0 grams of tetradecyl 4-nitrobenzoate as yellow crystals.

reactant | 1-tetradecanol | C(CCCCCCCCCCCCC)O | C14H30O
reactant | pyridine | 40 milliliters | N1=CC=CC=C1 | C5H5N
reactant | 4-Nitrobenzoyl chloride | 539 mmol, 100 grams | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 1000 milliliters | ClCCl | CH2Cl2
product | tetradecyl 4-nitrobenzoate | 77.0 grams | [N+](=O)([O-])C1=CC=C(C(=O)OCCCCCCCCCCCCCC)C=C1 | C21H33NO4
